US04788206
As in Example 134, a solution of (E)-5,5-bis[2-(trifluoromethyl)phenyl]-2,4-pentadienoic acid 4-nitrophenyl ester (1.45 g) and 3-pyridinebutanamine (0.44 g) in tetrahydrofuran (10 mL) was stirred for 1 hour at 25° C. and was worked up in the usual fashion. The crude product was passed through a column of silica gel (12 g) made up in dichloromethane and the amide was eluted with ethyl acetate. The material was crystallized from ethyl acetate-hexane to give 1.01 g of (E)-5,5-bis[2-(trifluoromethyl)phenyl]-N-[4-(3-pyridinyl)butyl]-2,4-pentadienamide mp 110°-112° C.

reactant | (E)-5,5-bis[2-(trifluoromethyl)phenyl]-2,4-pentadienoic acid 4-nitrophenyl ester | 1.45 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(C1=C(C=CC=C1)C(F)(F)F)C1=C(C=CC=C1)C(F)(F)F)=O | C25H15F6NO4
reactant | 3-pyridinebutanamine | 0.44 g | N1=CC(=CC=C1)CCCCN | C9H14N2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (E)-5,5-bis[2-(trifluoromethyl)phenyl]-N-[4-(3-pyridinyl)butyl]-2,4-pentadienamide | 1.01 g | FC(C1=C(C=CC=C1)C(=C/C=C/C(=O)NCCCCC=1C=NC=CC1)C1=C(C=CC=C1)C(F)(F)F)(F)F | C28H24F6N2O
